US04397677
Preparation of N-1,3-Dioxolan-2-ylmethyl-2,6-dinitro-4-methyl aniline
N-(2,2-dimethoxyethyl)-2,6-dinitro-4-methylaniline (3.0 grams; 0.0105 mole), ethylene glycol (0.65 grams; 0.0105 mole), p-toluenesulfonic acid (200 mg) and ethanol solvent were placed in a glass reaction vessel equipped with a stirrer heating mantle and thermometer. The reaction mixture was heated to 110° C. and maintained at that temperature with stirring for one hour. Then the reaction mixture was cooled to room temperature, ethyl acetate has added and the mixture was washed with water and sodium bicarbonate solution. The solution was dried over anhydrous magnesium sulfate and evaporated to yield the desired product (2.0 grams) of a yellow oil. The product was analyzed for C11H10N3O6 :

reactant | N-(2,2-dimethoxyethyl)-2,6-dinitro-4-methylaniline | 0.0105 mole, 3.0 grams | COC(CNC1=C(C=C(C=C1[N+](=O)[O-])C)[N+](=O)[O-])OC | C11H15N3O6
reactant | ethylene glycol | 0.0105 mole, 0.65 grams | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 200 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | C(C)O | C2H6O
product | N-1,3-Dioxolan-2-ylmethyl-2,6-dinitro-4-methyl aniline | 2.0 grams | O1C(OCC1)CNC1=C(C=C(C=C1[N+](=O)[O-])C)[N+](=O)[O-] | C11H13N3O6
